### PR TITLE
[Merged by Bors] - feat(Data/{Sum,Sigma}/Interval): Iic, Iio, Ici, and Ioi

### PR DESCRIPTION
**Pull request by eric-wieser**
This adds some missing `LocallyFiniteOrderBot` and `LocallyFiniteOrderTop` instances.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Sum/Interval.lean [hunk 1]
```diff
@@ -363,5 +404,53 @@ lemma Ioo_inr_inr :
...
+
+instance locallyFiniteOrderBot : LocallyFiniteOrderBot (α ⊕ₗ β) where
+  finsetIic := Sum.elim
+    (Iic · |>.map (.trans .inl toLex.toEmbedding))
+    (fun x => Finset.univ.disjSum (Iic x) |>.map toLex.toEmbedding) ∘ ofLex
+  finsetIio := Sum.elim
+    (Iio · |>.map (.trans .inl toLex.toEmbedding))
+    (fun x => Finset.univ.disjSum (Iio x) |>.map toLex.toEmbedding) ∘ ofLex
+  finset_mem_Iic := by simp
+  finset_mem_Iio := by simp
```
Comment (eric-wieser) [inline Mathlib/Data/Sum/Interval.lean]: This creates a diamond:
```

example [Fintype α] [Preorder α] [Preorder β] [OrderBot α] [OrderBot β] [OrderTop α]
    [LocallyFiniteOrder α] [LocallyFiniteOrder β] :
    LocallyFiniteOrder.toLocallyFiniteOrderBot = instLocallyFiniteOrderBot (α := α) (β := β) := by
  rfl
````
can you think of a way to make it not do so? Or is `LocallyFiniteOrder.toLocallyFiniteOrderBot` ultimately a bad instance?

Comment (YaelDillies) [reply Mathlib/Data/Sum/Interval.lean]: I think it ultimately is a bad instance. I knew it when I wrote it, but it was a great way to avoid writing too much boilerplate at a time where it wasn't yet clear whether `LocallyFiniteOrder` was even the right design.

Maybe `LocallyFiniteOrderBot` could extend `LocallyFiniteOrder`, to reduce verbosity?

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Data/Sum/Interval.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Data/Sum/Interval.lean]: So to be clear, in your opinion this is ok to merge as is, given the TODO comment about the diamond?

File: Mathlib/Data/Sum/Interval.lean [hunk 2]
```diff
@@ -363,5 +404,61 @@ lemma Ioo_inr_inr :
...
+
+lemma Iic_inl : Iic (inlₗ a : α ⊕ₗ β) = (Iic a).map (Embedding.inl.trans toLex.toEmbedding) := rfl
+lemma Iic_inr : Iic (inrₗ b : α ⊕ₗ β) = (Finset.univ.disjSum (Iic b)).map toLex.toEmbedding := rfl
+
+lemma Iio_inl : Iio (inlₗ a : α ⊕ₗ β) = (Iio a).map (Embedding.inl.trans toLex.toEmbedding) := rfl
+lemma Iio_inr : Iio (inrₗ b : α ⊕ₗ β) = (Finset.univ.disjSum (Iio b)).map toLex.toEmbedding := rfl
+
+end LocallyFiniteOrderBot
+
+-- TODO: there is a diamond here
```
Comment (j-loreaux) [inline Mathlib/Data/Sum/Interval.lean]: Please indicate what the long term fix is (i.e., that we need to remove that bad instance).

**Review by j-loreaux — COMMENTED** [review]
bors d+

**Comment by eric-wieser** [comment]
bors merge
